US05958918
C. 2'-Methoxybiphenyl-4-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide
The title compound is prepared from 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride as in EXAMPLE 24, Part B using 2'-methoxybiphenyl-4-sulfonyl chloride in place of 6-methoxynaphthalene-2-sulfonyl chloride. The crude product is purified by column chromatography eluting with a gradient of 10% EtOAc/CH2Cl2 to 20% EtOAc/CH2Cl2 to give the title compound as a white foam.

reactant | 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O
reactant | 2'-methoxybiphenyl-4-sulfonyl chloride | COC1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
product | 2'-Methoxybiphenyl-4-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC=C(C=C2)C2=C(C=CC=C2)OC)=O)C=CC1 | C25H23N3O4S
